US05610178
21-Deoxy-concanolide A
500 mg (2.6 mmol, 22.5 equiv.) of toluene-4-sulfonic acid in 3 ml of 1N HCl are added to a solution of 100 mg of 21-deoxyconcanamycin A (0.117 mmol) in 15 ml of MeOH and the reaction mixture is stirred for 48 hours at room temperature. After the addition of 20 ml of phosphate buffer (pH=7) the solvent is removed in vacuo. Standard working-up, followed by column chromatography on silica gel (system E then system D), yields the title compound. M.p. 104° C.

reactant | toluene-4-sulfonic acid | 2.6 mmol, 500 mg, 22.5 equiv. | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 21-deoxyconcanamycin A | 0.117 mmol, 100 mg | CC[C@H]1[C@H]([C@@H](C/C(=C/C=C/[C@@H]([C@H](OC(=O)/C(=C/C(=C/[C@H]([C@H]1O)C)/C)/OC)[C@@H](C)[C@H]([C@H](C)[C@H]2C[C@H]([C@@H]([C@H](O2)/C=C/C)C)O[C@H]3C[C@H]([C@@H]([C@H](O3)C)OC(=O)N)O)O)OC)/C)C)O | C46H75NO13
reactant | phosphate | 20 ml, pH=7 | P(=O)([O-])([O-])[O-]
solvent | HCl | 1N, 3 ml | Cl | ClH
solvent | MeOH | 15 ml | CO | CH4O
product | 21-Deoxy-concanolide A | CC[C@H]1[C@H]([C@@H](C/C(=C/C=C/[C@@H]([C@H](OC(=O)/C(=C/C(=C/[C@H]([C@H]1O)C)/C)/OC)[C@@H](C)[C@H]([C@H](C)[C@H]2C[C@H]([C@@H]([C@H](O2)/C=C/C)C)O)O)OC)/C)C)O | C39H64O9
